US05192779
N-(4-Diethylamino-2-butynyl)-2-chloro-2-cyclohexyl-2-phenylacetamide hydrochloride (100 mg) was dissolved in water (1 ml) and the solution was refluxed for 20 minutes. After being cooled, the solution was made alkaline (pH 10) with saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate. The extract was washed with sodium chloride aqueous solution, dried over sodium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of chloroform and methanol as an eluent to give N-(4-diethylamino-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide (74 mg).

reactant | N-(4-Diethylamino-2-butynyl)-2-chloro-2-cyclohexyl-2-phenylacetamide hydrochloride | 100 mg | Cl.C(C)N(CC#CCNC(C(C1=CC=CC=C1)(C1CCCCC1)Cl)=O)CC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 1 ml | O | H2O
product | N-(4-diethylamino-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide | 74 mg | C(C)N(CC#CCNC(C(C1=CC=CC=C1)(O)C1CCCCC1)=O)CC | C22H32N2O2
